US04551455
(a) 4-[4-(2-Methyl-1-imidazolyl)phenyl]-3-methyl-4-oxobutyronitrile
To a mixture of 33.6 g of 4-(2-methyl-1-imidazolyl)benzaldehyde and 400 ml of dimethylformamide under a nitrogen atmosphere was added 0.78 g of sodium cyanide and then with stirring at 30° C. 10.7 g of 2-butenenitrile was added dropwise. The reaction mixture was stirred at 25° C. under nitrogen for another 16 hours. Following the addition of one liter of water the mixture was extracted with chloroform, and the chloroform phase was washed with water, dried over sodium sulfate, and concentrated. The residue was purified by column chromatography (silica gel/chloroform) and then reprecipitated with chloroform/hexane.

reactant | 4-(2-methyl-1-imidazolyl)benzaldehyde | 33.6 g | CC=1N(C=CN1)C1=CC=C(C=O)C=C1 | C11H10N2O
reactant | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
reactant | sodium cyanide | 0.78 g | [C-]#N.[Na+]
reactant | 2-butenenitrile | 10.7 g | C(C=CC)#N | C4H5N
solvent | water | one liter | O | H2O
product | 4-[4-(2-Methyl-1-imidazolyl)phenyl]-3-methyl-4-oxobutyronitrile | CC=1N(C=CN1)C1=CC=C(C=C1)C(C(CC#N)C)=O | C15H15N3O
